US04489093
Using the procedure of Example 1, (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylic acid and 3-(2-propynyl)-2,5-dioxoimidazolidinyl-methanol were reacted to obtain 3-(2-propynyl)-2,5-dioxoimidazolidinyl-methyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+12°±2° (c=0.5% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(OCC)=O)\F)C(=O)O)C | C11H15FO4
reactant | 3-(2-propynyl)-2,5-dioxoimidazolidinyl-methanol | C(C#C)N1C(N(C(C1)=O)CO)=O | C7H8N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-propynyl)-2,5-dioxoimidazolidinyl-methyl (1R,cis) 2,2-dimethyl-3(E)-[2-fluoro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(/C(OCC)=O)\F)C(=O)OCN1C(N(CC1=O)CC#C)=O)C | C18H21FN2O6
